US04263311
A slurry of 3.5 g. (0.01 mole) of 4,5-bis(3,4-methylenedioxyphenyl)-2-mercaptoimidazole, 2.0 g. (0.01 mole) of 1,2-dibromoethane and 2 g. (0.014 mole) of potassium carbonate in dimethylformamide (45 ml.) was refluxed for 2.5 hours and then poured into 500 ml. of ice water. The precipitate was collected, washed with water and dried. Chromatography (alumina/chloroform) gave 5,6-bis(3,4-methylenedioxyphenyl)-2,3-dihyroimidazo[2,1-b]thiazole. This was dissolved in methanol and treated with aqueous hydrobromic acid. The solvent was removed and the residue recrystallized from methanol to give 5,6-bis(3,4-methylenedioxyphenyl)-2,3-dihydroimidazo[2,1-b]thiazole hydrobromide, m.p. 278°-280° C.

reactant | 4,5-bis(3,4-methylenedioxyphenyl)-2-mercaptoimidazole | 0.01 mole | C1OC=2C=C(C=CC2O1)C=1N=C(NC1C1=CC2=C(C=C1)OCO2)S | C17H12N2O4S
reactant | 1,2-dibromoethane | 0.01 mole | BrCCBr | C2H4Br2
reactant | potassium carbonate | 0.014 mole | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 45 ml | CN(C=O)C | C3H7NO
product | 5,6-bis(3,4-methylenedioxyphenyl)-2,3-dihyroimidazo[2,1-b]thiazole | C1OC=2C=C(C=CC2O1)C1=C(N=C2SCCN21)C2=CC1=C(C=C2)OCO1 | C19H14N2O4S
